US08835634B2
To 2 g (10.5 mM) of 1-ethyl-1,4-dihydroquinoxaline-2,3-dione in 20 ml of dichloroethane were added dropwise 3.16 g (11.0 mM) of POBr3. The reaction mixture was refluxed under stirring for 2 h and then treated with ice cold and an aqueous sodium carbonate solution. The mixture was filtered and the filtrate was extracted with dichloromethane, dried over anhydrous sodium sulfate and concentrated to give 1.4 g of 3-bromo-1-ethyl-quinoxalin-2(1H)-one as a yellow solid. Yield: 53%.

reactant | 1-ethyl-1,4-dihydroquinoxaline-2,3-dione | 10.5 mM, 2 g | C(C)N1C(C(NC2=CC=CC=C12)=O)=O | C10H10N2O2
reactant | POBr3 | 11.0 mM, 3.16 g | P(=O)(Br)(Br)Br | Br3OP
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloroethane | 20 ml | ClC(C)Cl | C2H4Cl2
product | 3-bromo-1-ethyl-quinoxalin-2(1H)-one | 1.4 g, Yield: 53% | BrC=1C(N(C2=CC=CC=C2N1)CC)=O | C10H9BrN2O
